US06235771B1
Under argon atmosphere, a mixture of methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.7 g), 4-morpholinophenyl borate (481 mg) and potassium carbonate (0.59 g) in toluene/ethanol/water (20/2/2 ml) was stirred at room temperature for 1 hour. To the mixture was added tetrakistriphenylphosphinepalladium (0.12 g), and the mixture was refluxed for 20 hours and cooled. To the mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and precipitated solid was recrystallized from ethyl acetate/hexane to give yellow crystals of methyl 7-(4-morpholinophenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (617.6 mg).

reactant | methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.7 g | BrC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H11BrO4S
reactant | 4-morpholinophenyl borate | 481 mg | B(OC1=CC=C(C=C1)N1CCOCC1)([O-])[O-]
reactant | potassium carbonate | 0.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | toluene ethanol water | 2 ml | C1(=CC=CC=C1)C.C(C)O.O
catalyst | tetrakistriphenylphosphinepalladium | 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 7-(4-morpholinophenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 617.6 mg | O1CCN(CC1)C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C22H23NO5S
